US08633212B2
A solution of phthalic acid (9 g, 0.05 mol) in anhydrous THF (200 mL) was added to LAH (7.6 g, 0.2 mol) in THF (250 mL) dropwise, and the mixture was refluxed for 18 hours. The mixture was cooled in ice bath and carefully added water dropwise, followed by 50% NaOH (150 mL), and then removed the ice bath added water slowly with stirring until the gray precipitate turns white. The mixture was filtrated and the filtrate was concentrated to give crude 1,2-phenylenedimethanol (7 g, 92%).

reactant | phthalic acid | 0.05 mol, 9 g | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | LAH | 0.2 mol, 7.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
reactant | NaOH | 150 mL | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 1,2-phenylenedimethanol | 7 g, 92% | C1(=C(C=CC=C1)CO)CO | C8H10O2
